US05190953
1-Azabicyclo[3.3.1]nonane-5-methanol,
A solution of 1-azabicyclo[3.3.1]nonane-5-carboxylic acid ethyl ester (9.08 g, 46 mmol) in anhydrous tetrahydrofuran (25 mL) was added dropwise to a cooled (-10° C.) solution of 1.0N lithium aluminum hydride/tetrahydrofuran (50 mL, 50 mmol) in a 3-neck, 250-mL flask under nitrogen at a rate to keep the reaction temperature below 1 5° C., The mixture was stirred for 15 minutes at room temperature, refluxed for 45 minutes, cooled (0° C.), and carefully treated dropwise with water (2 mL), 15% sodium hydroxide (2 mL), and water (6 mL). The suspension was filtered through Celite and the solid was washed with tetrahydrofuran. The filtrate was concentrated in vacuo to afford 6.99 g (98%) of colorless solid; mp 64.0°-65.5° C.

reactant | 1-azabicyclo[3.3.1]nonane-5-carboxylic acid ethyl ester | 46 mmol, 9.08 g | C(C)OC(=O)C12CCCN(CCC1)C2 | C11H19NO2
reactant | lithium aluminum hydride tetrahydrofuran | 50 mmol, 1.0N, 50 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-].O1CCCC1
reactant | water | 2 mL | O | H2O
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
reactant | water | 6 mL | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-Azabicyclo[3.3.1]nonane-5-methanol | 6.99 g, 98% | N12CCCC(CCC1)(C2)CO | C9H17NO
